US07704995B2
To a solution of methyl 3-amino-6-bromopyrazine-2-carboxylate (0.18 g, 0.74 mmol) in N,N-dimethylformamide (10 mL) were added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1, 60 mg, 0.07 mmol), 1-naphthylboronic acid (0.32 g, 1.89 mmol), and triethylamine (0.15g, 1.52 mmol). The solution was degassed with nitrogen for 3-5 min. The reaction was then heated to 85-90° C. overnight. The reaction was cooled to room temperature and diluted with ethyl acetate (300 mL). The crude solution was passed through a pad of silica gel under vacuum. The filtrate was washed with saturated aqueous sodium bicarbonate (50 mL) and saturated aqueous sodium chloride (50 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated at reduced pressure to afford impure product. Column purification on silica (8:2 hexanes/ethyl acetate) afforded methyl 3-amino-6-naphthalen-1-ylpyrazine-2-carboxylate (80 mg, 39% yield) as yellow solid: 1H NMR (400 MHz, CDCl3): δ 8.52 (br s, 1H), 8.12 (br s, 1H), 7.92 (m, 2H), 7.52 (m, 5H), 4.02 (s, 3H); MS (EI) for C16H13N3O2: 280 (MHz).

reactant | methyl 3-amino-6-bromopyrazine-2-carboxylate | 0.74 mmol, 0.18 g | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
reactant | dichloromethane | 0.07 mmol, 60 mg | ClCCl | CH2Cl2
reactant | 1-naphthylboronic acid | 1.89 mmol, 0.32 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | triethylamine | 1.52 mmol, 0.15g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | methyl 3-amino-6-naphthalen-1-ylpyrazine-2-carboxylate | 80 mg, 39% yield | NC=1C(=NC(=CN1)C1=CC=CC2=CC=CC=C12)C(=O)OC | C16H13N3O2
